US06583141B1
) A mixture of 0.020 mol of p-nitro-α-phenylhydratroponitrile and 28 ml of concentrated sulfuric acid solution (90%) is heated in a water-bath for 3.5 hours. The reaction mixture is poured onto crushed ice, neutralized with a sodium hydroxide solution and the product is extracted with chloroform. The organic layer is washed with water, dried and evaporated in vacuo and the residue is crystallized from either, yielding 2.4 grams of p-nitro-α-phenylhydratropamide. (interm. 7)

reactant | p-nitro-α-phenylhydratroponitrile | 0.020 mol | [N+](=O)([O-])C1=CC=C(C(C#N)(C)C2=CC=CC=C2)C=C1 | C15H12N2O2
reactant | sulfuric acid | 28 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | p-nitro-α-phenylhydratropamide | 2.4 grams | [N+](=O)([O-])C1=CC=C(C(C(=O)N)(C)C2=CC=CC=C2)C=C1 | C15H14N2O3
